US04644005
G6. 1-ethyl-6-benzoyloxindole
Starting with 6-benzoyloxindole and the appropriate dialkyl sulfate and employing the procedure of Preparation G6, 1-methyl-6-benzoyloxindole, 1-n-propyl-6-benzoyloxindole and 1-i-propyl-6-benzoyloxindole are prepared.

reactant | 6-benzoyloxindole | C(C1=CC=CC=C1)(=O)C1=CC=C2CC(NC2=C1)=O | C15H11NO2
reactant | 1-methyl-6-benzoyloxindole | CN1C(CC2=CC=C(C=C12)C(C1=CC=CC=C1)=O)=O | C16H13NO2
reactant | 1-n-propyl-6-benzoyloxindole | C(CC)N1C(CC2=CC=C(C=C12)C(C1=CC=CC=C1)=O)=O | C18H17NO2
reactant | 1-i-propyl-6-benzoyloxindole | C(C)(C)N1C(CC2=CC=C(C=C12)C(C1=CC=CC=C1)=O)=O | C18H17NO2
product | 1-ethyl-6-benzoyloxindole | C(C)N1C(CC2=CC=C(C=C12)C(C1=CC=CC=C1)=O)=O | C17H15NO2
